US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and 2-naphthoyl chloride, there is obtained ethyl N-(2-naphthylcarbonyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a foam, mass spectrum m/e: M+ 420 (7), 391 (8), 194 (100), 155 (28), 127 (28);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | 2-naphthoyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | ethyl N-(2-naphthylcarbonyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=C(C=CC2=CC=CC=C12)C(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C28H24N2O2
